** sch_path: /foss/designs/analog-perceptron-gf180mcu/lvs/schematics/cg_amp_tia.sch
.subckt cg_amp_tia V_ref V_out I_in VSS
*.PININFO V_ref:B VSS:B I_in:I V_out:O
XM1 V_out V_ref I_in VSS nfet_03v3 L=0.5u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XR1 V_out V_ref VSS ppolyf_u_1k r_width=3e-6 r_length=8.1e-6
.ends
