** sch_path: /foss/designs/analog-perceptron-gf180mcu/lvs/schematics/io_secondary_5p0.sch
.subckt io_secondary_5p0 VDD to_gate ASIG5V VSS
*.PININFO VSS:B VDD:B to_gate:B ASIG5V:B
D1 to_gate VDD diode_pd2nw_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
XR1 to_gate ASIG5V VDD ppolyf_u r_width=40e-6 r_length=10e-6
D2 VSS to_gate diode_nd2ps_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends
